US04878939
1,235 g (12.7 moles) of 1,1-dichloroethene and 630 g (4.23 moles) of 3-chloro-3-methylheptane are taken at 20° C. 85 g of anhydrous iron(III) chloride are added in portions, while cooling. The mixture is then subsequently stirred at 30° C. for 2 hours. It is poured onto ice and dilute aqueous hydrochloric acid. The organic phase is separated off, dried and subjected to fractional distillation. 627 g (71% of theory) of 1,1-dichloro-3-ethyl-3-methyl-hept-1-ene are isolated at boiling point6.1 50°-60° C.

reactant | 1,1-dichloroethene | 12.7 moles, 1,235 g | ClC(=C)Cl | C2H2Cl2
reactant | 3-chloro-3-methylheptane | 4.23 moles, 630 g | ClC(CC)(CCCC)C | C8H17Cl
reactant | hydrochloric acid | Cl | ClH
catalyst | iron(III) chloride | 85 g | [Fe](Cl)(Cl)Cl
product | 1,1-dichloro-3-ethyl-3-methyl-hept-1-ene | 627 g, 71% | ClC(=CC(CCCC)(C)CC)Cl | C10H18Cl2
